US07442708B2
Synthesis of N-benzyl-N-methyl-N-(2-methylindolizin-1-yl)amine
This compound is obtained according to the same procedure as the compound of Preparation I, using the Tschitschibabin reaction and starting with 2.47 g of N-benzyl-N-methyl-N-[(pyridin-2-yl)methyl]amine and chloroacetone. 970 mg of a yellow oil are obtained.

reactant | N-benzyl-N-methyl-N-[(pyridin-2-yl)methyl]amine | 2.47 g | C(C1=CC=CC=C1)N(CC1=NC=CC=C1)C | C14H16N2
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
product | N-benzyl-N-methyl-N-(2-methylindolizin-1-yl)amine | 970 mg, Yield: 34% | C(C1=CC=CC=C1)N(C=1C(=CN2C=CC=CC12)C)C | C17H18N2
